US04062861
To 3-amino-5-t-butylisoxazole (2.80 g), acetic anhydride (6 ml) is added, and the resultant mixture is allowed to stand at room temperature for 4 hours. The reaction mixture is mixed with chilled water (50 ml), and the precipitated crystals are filtered. The crystals are washed with water and dried to give 3-acetylamino-5-t-butylisoxazole (3.39 g). This substance is recrystallized from hexane to give crystals melting at 120.5° to 121.0° C.

reactant | 3-amino-5-t-butylisoxazole | 2.80 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 ml | O | H2O
product | 3-acetylamino-5-t-butylisoxazole | 3.39 g | C(C)(=O)NC1=NOC(=C1)C(C)(C)C | C9H14N2O2
